US05068334
1-(2-Phenylethyl)-3,4,7,8-tetrahydro-2,5(1H,6H)-quinolinedione
Prepared analogously to Example 27 from 2-(2-carbethoxy-ethyl)-cyclohexan-1,3-dione and 2-phenylethylamine in boiling xylene using a water separator.

reactant | 2-(2-carbethoxy-ethyl)-cyclohexan-1,3-dione | C(=O)(OCC)CCC1C(CCCC1=O)=O | C11H16O4
reactant | 2-phenylethylamine | C1(=CC=CC=C1)CCN | C8H11N
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | 1-(2-Phenylethyl)-3,4,7,8-tetrahydro-2,5(1H,6H)-quinolinedione | C1(=CC=CC=C1)CCN1C(CCC=2C(CCCC12)=O)=O | C17H19NO2
